US07253286B2
N-(4-(6-Cyano-7-(2-methoxyethoxy)-4-quinolyl)oxy-2-fluorophenyl)-N′-(2,4-difluorophenyl)urea
4-(4-Amino-3-fluorophenoxy)-6-cyano-7-(2-methoxyethoxy)quinoline (352 mg) was suspended in toluene (20 ml) and the suspension was heated to reflux for dissolution, after which 2,4-difluorophenyl isocyanate (236 μl ) was added dropwise and the mixture was heated to reflux for 30 minutes. After cooling, the precipitated solid was filtered out, washed with ether and ethyl acetate and dried to obtain 380 mg of the title compound.

reactant | 4-(4-Amino-3-fluorophenoxy)-6-cyano-7-(2-methoxyethoxy)quinoline | 352 mg | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCCOC)C=C1)F | C19H16FN3O3
reactant | 2,4-difluorophenyl isocyanate | 236 μl | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-(6-Cyano-7-(2-methoxyethoxy)-4-quinolyl)oxy-2-fluorophenyl)-N′-(2,4-difluorophenyl)urea | 380 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OCCOC)OC1=CC(=C(C=C1)NC(=O)NC1=C(C=C(C=C1)F)F)F | C26H19F3N4O4
